US04774266
Synthesis of N-(2,3-Dihydroxypropyl) 5-Phenyltetrazole
A solution of 3-chloro-2-hydroxypropyl methacrylate (0.50 mole; 89.3 g. and 500 ppm 4-methoxyphenol as inhibitor) in 2-methoxyethanol (300 ml) was added to sodium 5-phenyltetrazole (1.0 mole; 168.2 g) dissolved in 2-methoxyethanol (800 ml) and heated at 100° C. for 14.5 hours. The product solution was quenched with H2O (150 ml), extracted with CH2Cl2 (3×500 ml), the extracts washed with H2O (500 ml) and concentrated to a semi-solid, m.p. 25°-115° C, gas evolution, 219° C.

reactant | 3-chloro-2-hydroxypropyl methacrylate | 0.50 mole, 89.3 g | C(C(=C)C)(=O)OCC(CCl)O | C7H11ClO3
reactant | sodium 5-phenyltetrazole | 1.0 mole, 168.2 g | C1(=CC=CC=C1)C1=NN=NN1.[Na]
solvent | 2-methoxyethanol | 300 ml | COCCO | C3H8O2
solvent | 2-methoxyethanol | 800 ml | COCCO | C3H8O2
product | N-(2,3-Dihydroxypropyl) 5-Phenyltetrazole | OC(CN1N=NN=C1C1=CC=CC=C1)CO | C10H12N4O2
